US08710063B2
Add methyl chloroformate (0.25 g, 0.0027 mol) to a solution of 2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethanamine (0.39 g, 0.0010 mol) and pyridine (4.0 mL) in dry dichloromethane (4 mL) at 0° C. Allow to warm to room temperature and stir for 2 hour. Quench the reaction mixture with saturated aqueous sodium bicarbonate solution and then extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give a residue. Purify the residue on a silica gel column using dichloromethane:methanol (97:3) as eluent to afford methyl N-[2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethyl]carbamate (0.3 g). ES/MS m/z 444 (M+1).

reactant | methyl chloroformate | 0.0027 mol, 0.25 g | ClC(=O)OC | C2H3ClO2
reactant | 2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethanamine | 0.0010 mol, 0.39 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCN | C19H24ClN7
reactant | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | methyl N-[2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethyl]carbamate | 0.3 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCNC(OC)=O | C21H26ClN7O2
